US08026359B2
Step B: Preparation of 4-(2-chloro-4-pyridinyl)-N-(2-methoxy-1-methylethyl)-2-pyrimidinamine
A solution of 2-chloro-4-(2-chloro-4-pyridinyl)pyrimidine (i.e., the product of Step A) (1.6 g, 7.0 mmol) in 1-methoxy-2-propylamine (5 mL) was stirred at reflux for 45 minutes. After cooling to room temperature, the mixture was purified using column chromatography on silica gel eluted with 40% ethyl acetate in hexanes to give 1.4 g of the title compound as a white solid.

reactant | 2-chloro-4-(2-chloro-4-pyridinyl)pyrimidine | ClC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C9H5Cl2N3
reactant | 1-methoxy-2-propylamine | 5 mL | COCC(C)N | C4H11NO
product | 4-(2-chloro-4-pyridinyl)-N-(2-methoxy-1-methylethyl)-2-pyrimidinamine | 1.4 g | ClC1=NC=CC(=C1)C1=NC(=NC=C1)NC(COC)C | C13H15ClN4O
